US06096930
i) 7-Chloro-2,2,4,5-tetramethylindan-1,3-dione
To a mixture of 35.5 ml of 4-chloro-o-xylene and 29.84 g of dimethylmalonyl chloride in 150 ml of dry dichloromethane was added slowly 34.7 g of AlCl3 under the current of nitrogen gas at -10° C. The reaction mixture was stirred at room temperature for 2 hours, quenched with 200 g of ice, and separated the organic layer. The aqueous layer was extracted with dichloromethane. The combined organic layer was dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The residue was purified by silica-gel column chromatography to afford 34.99 g of the title compound as yellow solid.

reactant | 4-chloro-o-xylene | 35.5 ml | ClC=1C=C(C(=CC1)C)C | C8H9Cl
reactant | dimethylmalonyl chloride | 29.84 g | CC(C(=O)Cl)(C(=O)Cl)C | C5H6Cl2O2
reactant | AlCl3 | 34.7 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 7-Chloro-2,2,4,5-tetramethylindan-1,3-dione | 34.99 g, Yield: 83% | ClC=1C=C(C(=C2C(C(C(C12)=O)(C)C)=O)C)C | C13H13ClO2
